US06936612B2
6-Bromo-8-cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.09 g, 3.06 mmol) and 6-amino-nicotinamide (2.51 g, 18 mmol) were combined in toluene (8 ml) and heated to 100° C. for 18 hours. The mixture then was diluted with dimethylsulfoxide (8 ml) and heated to 120° C. for 2 hours. The mixture then was poured into water (120 ml) with rapid stirring. Diethyl ether was added and the resulting solid was collected by filtration. This solid was washed with 1:1 warm ethyl acetate/tetrahydrofuran and dried in vacuo to provide 6-bromo-8-cyclopentyl-2-methyl-8H-pyrido[2,3-d]pyrimidin-7-one as a yellow solid (0.233 g, 18%). MS (APCI); M++1: Calc'd, 429.06. Found, 429.1. Analyses for C18H17BrN6O2:

reactant | 6-Bromo-8-cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 3.06 mmol, 1.09 g | BrC1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1 | C13H14BrN3O2S
reactant | 6-amino-nicotinamide | 18 mmol, 2.51 g | NC1=NC=C(C(=O)N)C=C1 | C6H7N3O
reactant | water | 120 ml | O | H2O
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 8 ml | CS(=O)C | C2H6OS
product | 6-bromo-8-cyclopentyl-2-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.233 g, 18% | BrC1=CC2=C(N=C(N=C2)C)N(C1=O)C1CCCC1 | C13H14BrN3O
